US08314100B2
1-[(6,7-Difluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine (Compound 170)
Ethyl N-(6,7-di fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(3,5-di methoxyphenyl)piperazine were reacted by the same way with the example 169 to obtain the titled compound (yield, 70%). MS (ESI) m/z 460 ([M+H]+).

reactant | Ethyl N-(6,7-di fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1F)OC)NC(OCC)=O | C12H11F2N3O3
reactant | 1-(3,5-di methoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(6,7-Difluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 70% | FC=1C=C2N=C(C(=NC2=CC1F)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C22H23F2N5O4
